US07615569B2
Ethyl chloroformate (0.05 mL) was added to a solution of 4-(thiazol-2-ylsulfamoyl)-N-(3,4-dichlorobenzylamino)-benzamidine (0.044 mmol) and TEA (0.20 mL) in THF (5 mL) at room temperature and the resulting solution was stirred for 2 h. After concentrating in vacuo 1 N NaOH (4 mL) was added and the solution was heated to 95° C. overnight. After the mixture was cooled to room temperature, the solution was acidified with 1 N HCl and freeze dried. The crude material was purification by reverse phase chromatography to yield 4-[1-(3,4-dichloro-benzyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-N-thiazol-2-yl-benzenesulfonamide (0.002 mmol).

reactant | Ethyl chloroformate | 0.05 mL | ClC(=O)OCC | C3H5ClO2
reactant | 4-(thiazol-2-ylsulfamoyl)-N-(3,4-dichlorobenzylamino)-benzamidine | 0.044 mmol | S1C(=NC=C1)NS(=O)(=O)C1=CC=C(C(=N)NNCC2=CC(=C(C=C2)Cl)Cl)C=C1 | C17H15Cl2N5O2S2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[1-(3,4-dichloro-benzyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazol-3-yl]-N-thiazol-2-yl-benzenesulfonamide | 0.002 mmol | ClC=1C=C(CN2N=C(NC2=O)C2=CC=C(C=C2)S(=O)(=O)NC=2SC=CN2)C=CC1Cl | C18H13Cl2N5O3S2
